### PR TITLE
Equivocators composition

### PR DESCRIPTION
**Pull request by traiansf**
Basic composition of equivocators (where equivocating and non-equivocating machines are partitioned from the beginning).

### CODE REVIEW

File: VLSM/Equivocators/Projections.v [hunk 1]
```diff
@@ -507,14 +508,19 @@ Lemma equivocator_protocol_transition_item_project_inv5
...
   (fi : bool)
   : exists
     (i : nat)
-    (Hi : i < S (projT1 s))
-    (d' : MachineDescriptor)
-    (itemx : vtransition_item X)
-    (item := {| l := l; input := iom; destination := s; output := oom |}),
-    equivocator_vlsm_transition_item_project item (Existing _ i fi) = Some (Some itemx, d').
+    (Hi : i < S (projT1 s)),
+    match (snd l) with
```
Comment (bmmoore) [inline VLSM/Equivocators/Projections.v:516]: I'm not specifically recommending the change, but you could consider pulling the equality outside the match by changing the conclusion to something like
```exists (oitemx: option vtransition_item X), equivocator_vlsm_transition_item_project item (Existing _ i fi) = Some (oitemx, snd l) /\ (match (snd l) with NewMatchine _ _ => oitemx = None | _ => match oitemx with Some _ => True | None => False end end)```
Of course, if you usually need to end up destructing `snd l` anyway that's only making things more awkward by sticking the `exists` where it will show up in both cases; that doesn't move the equality high enough to actually `rewrite` by the lemma.

**Review by bmmoore — CHANGES_REQUESTED** [review]
Looks pretty good. It's only the few explicit requests that I'd definitely like to see included in this PR, all small and local changes.

File: VLSM/Equivocators/Common.v [hunk 2]
```diff
@@ -124,6 +157,18 @@ Next Obligation.
   lia.
 Defined.
 
+(** Extension preseves original state.*)
+Lemma equivocator_state_extend_original_state
+  (bs : equivocator_state)
+  (s : vstate X)
+  : projT2 (equivocator_state_extend bs s) F1 = projT2 bs F1.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/Equivocators/Common.v:164]: I think it was useful at some point, when I was considering always projecting on the `F1` but not anymore. Seeing that it's not used anywhere, I decided to remove it.  Nevertheless, I think we could consider using a lemma like the one you proposed to shorten some of the proofs where the proof is is done explicitly within.

File: VLSM/Equivocators/Common.v [hunk 3]
```diff
@@ -248,47 +321,29 @@ Lemma equivocator_state_project_protocol
   let (n, bs) := bs in
   forall (i : Fin.t (S n)), protocol_state_prop X (bs i).
 Proof.
-  remember (bs, om) as bsom.
-  generalize dependent om. generalize dependent bs.
-  induction Hbs; intros; split; try (apply pair_equal_spec in Heqbsom; destruct Heqbsom as [Heqbs Heqom]; subst).
+  generalize_eqs_vars Hbs.
+  induction Hbs; simplify_dep_elim; split.
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/Equivocators/Common.v:325]: you're right, they seem to be synonyms; replacing them with dependent induction worked like a charm.

File: VLSM/Equivocators/Composition/Common.v [hunk 4]
```diff
@@ -0,0 +1,1007 @@
...
+Qed.
+
+Local Tactic Notation "unfold_transition"  hyp(H) :=
+  ( unfold transition in H; unfold equivocator_vlsm in H
+  ; unfold Common.equivocator_vlsm in H
+  ; unfold mk_vlsm in H; unfold machine in H
+  ; unfold projT2 in H; unfold equivocator_vlsm_machine in H
+  ; unfold equivocator_transition in H).
+
+Lemma equivocators_protocol_state_project
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/Equivocators/Composition/Common.v:396]: I don't have an immediate idea. I'll add an issue about it.

File: VLSM/Equivocators/MessageProperties.v [hunk 5]
```diff
@@ -104,14 +103,22 @@ Lemma preloaded_equivocator_vlsm_trace_project_protocol_item
...
   (fi : bool)
-  : exists
-    (d d' : MachineDescriptor)
-    (item : vtransition_item X)
-    (Hitem : equivocator_vlsm_transition_item_project _ bitem d = Some (Some item, d'))
-    (tr : list (vtransition_item X))
-    (dfinal dfirst : MachineDescriptor)
-    (Htr : equivocator_vlsm_trace_project _ btr dfinal = Some (tr, dfirst)),
-    In item tr.
+  : match snd (l bitem) with
```
[the remark this answers is not in the document]
Comment (traiansf) [reply VLSM/Equivocators/MessageProperties.v:106]: i've split this one into two lemmas

File: VLSM/Equivocators/Projections.v (hunk 1 above)
Comment (traiansf) [reply VLSM/Equivocators/Projections.v:516]: I've split this one intro two lemmas.

**Comment by traiansf** [comment]
@bmmoore I've addressed all your comments. Please take another look. In the meanwhile, I'll try to think of ways to break that huge proof.

File: VLSM/Equivocators/Common.v [hunk 6]
```diff
@@ -355,14 +342,11 @@ Proof.
...
-              (@pair (@state message (@type message X))
-                 (option message) (bs' (of_nat_lt Hi)) om0))
-        with (vtransition X l (bs' (of_nat_lt Hi), om0))
-        in Hgen
-        by reflexivity.
+      match type of Hgen with
+      | protocol_prop _ ?t => 
+        replace t  with (vtransition X l (bs' (of_nat_lt Hi), om0))
+          in Hgen by reflexivity
+      end.
```
Comment (bmmoore) [inline VLSM/Equivocators/Common.v:349]: If the terms are convertible you can use `change` instead of `replace ... by reflexivity`.

Writing it this way makes me wonder if there is funny setoid stuff going on. (I'm pretty that `reflexivity` cannot succeed with non-convertible terms even if you are trying to prove a setoid goal).

File: VLSM/Equivocators/MessageProperties.v [hunk 7]
```diff
@@ -91,6 +91,49 @@ Proof.
...
+  (bs : vstate equivocator_vlsm)
+  (btr : list (vtransition_item equivocator_vlsm))
+  (Hbtr : finite_protocol_trace_from (pre_loaded_with_all_messages_vlsm equivocator_vlsm) bs btr)
+  (bitem : vtransition_item equivocator_vlsm)
+  (Hitem : In bitem btr)
+  (sn : state)
+  (Hnew : snd (l bitem) = NewMachine _ sn)
+  : exists
+      (d : MachineDescriptor)
+      (Hitem : equivocator_vlsm_transition_item_project _ bitem d = Some (None, snd (l bitem))),
```
Comment (bmmoore) [inline VLSM/Equivocators/MessageProperties.v:104]: I missed this in the first review.
Unless I'm missing some implicit mentions of the existentially quantified variables, the conjuncts `input bitem = None /\ output bitem = None` should be outside the existential, and `Hitem` doesn't need to be a named parameter.
How about some permutation of
`: input bitem = None /\ output bitem = None  /\ exists (d:MachineDescriptor), equivocator_vlsm_transition_item_project _ bitem d = Some (None, snd (l bitem)).`

File: VLSM/Equivocators/MessageProperties.v [hunk 8]
```diff
@@ -102,45 +145,27 @@ Lemma preloaded_equivocator_vlsm_trace_project_protocol_item
...
+  : exists
       (d : MachineDescriptor)
       (item : vtransition_item X)
       (Hitem : equivocator_vlsm_transition_item_project _ bitem d = Some (Some item, snd (l bitem)))
       (tr : list (vtransition_item X))
       (dfinal dfirst : MachineDescriptor)
       (Htr : equivocator_vlsm_trace_project _ btr dfinal = Some (tr, dfirst)),
-      In item tr
-    end.
+      In item tr.
```
Comment (bmmoore) [inline VLSM/Equivocators/MessageProperties.v:158]: This conclusion also has `Hitem` and `Htr` being unnecessarily bound as quantified parameters, but both mentioning `item` makes it less obvious how to untangle dependencies. Maybe
```
exists (item: vtransition_item X),
(exists (d: MachineDescriptor),
    equivocator_vlsm_transition_item_project _ bitem d = Some (Some item, snd (l bitem)))
/\ exists (tr : list (vtransition_item X)),
In item tr
/\ exists (dfinal dfirst : MachineDescriptor),
equivocator_vlsm_trace_project _ btr dfinal = Some (tr, dfirst).```

**Review by bmmoore — CHANGES_REQUESTED** [review]
If you have places in mind where the generalized equivocator_state_extend_original_state could be used, please let me know.

The code changes I asked for are all good.

But I noticed two things I missed in the first review, and one change to make with tactic use in new proofs. (`change` instead of `replace ... by reflexivity`).

File: VLSM/Equivocators/MessageProperties.v (hunk 8 above)
Comment (traiansf) [reply VLSM/Equivocators/MessageProperties.v:158]: I'm not sure I follow what's your point here.  What difference does it make whether it is quantified or not? I agree that the latter hypotheses don't depend on them; however we prove them in the same fashion, and we destruct them similarly whether they are in a conjunction or an existential quantification (which I take to be a dependent conjunction).  Can you give me a good reason why my approach is problematic?

Comment (bmmoore) [reply VLSM/Equivocators/MessageProperties.v:161]: The problematic part is still using a dependent product when a non-dependent one will work.
The benefits are not so big or clear here, because there is enough real dependency that we can't avoid an `exists` at the top level.

Writing an unnecessary `exists` is a little bit misleading by suggesting that the body might depend on the parameter, similarly to writing `forall (a:A), ...` instead of `A -> ...`. (With the trouble we have with implicit parameters from class stuff, I still wonder if it might be used invisibly even if it is not mentioned explicitly).
This is less of a concern when we're already inside `exists item, _`, and have to understand that dependency.

It also affects some functionality. Tactics like `apply` and `tauto` can automatically take apart some products for you (that's why you can `apply` an `A <-> B` without explicitly `destruct`ing to get the direction you want).
With `exists` it can't find the body:

```
Lemma and1 A B (H: A /\ B) : A. Proof. apply H. Qed.
Lemma and2 A B (H: A /\ B) : B. Proof. apply H. Qed.
Lemma ex1 A B (H: exists (a:A), B) : A. Proof. apply H. Qed.
Lemma ex2 A B (H: exists (a:A), B) : B. Proof. try (apply H). Abort.
```

This is is also probably not so useful with the `exists` at the top level - those tactics can't get at the body without some manual de-structuring anyway, so we could just as well completely split up all the nested existentials.

**Review by bmmoore — APPROVED** [review]
Code looks good. Don't forget to remember to make a reminder to simplify the oversized proof.

File: VLSM/Equivocators/MessageProperties.v (hunk 8 above)
Comment (traiansf) [reply VLSM/Equivocators/MessageProperties.v:161]: Thanks for the details. I'll definitely keep that in mind for future work. I was usually destructing products before applying them, so I failed to see the benefits before you mentioning it, but I'll definitely try it in my future proof scripts.

Comment (traiansf) [reply VLSM/Equivocators/MessageProperties.v]: I decided in the end to rewrite that lemma the way you proposed.
